US08106190B2
Methanol and thionyl chloride were added to 2-{[(1S,2S)-2-aminocyclohexyl]amino}-4-(trifluoromethyl)benzonitrile, followed by stirring with heating at 60° C. After neutralizing the reaction liquid by adding sodium bicarbonate aqueous solution thereto, the reaction liquid was post-treated to obtain methyl 2-{[(1S,2S)-2-aminocyclohexyl]amino}-4-(trifluoromethyl)benzoate.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-{[(1S,2S)-2-aminocyclohexyl]amino}-4-(trifluoromethyl)benzonitrile | N[C@@H]1[C@H](CCCC1)NC1=C(C#N)C=CC(=C1)C(F)(F)F | C14H16F3N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Methanol | CO | CH4O
product | methyl 2-{[(1S,2S)-2-aminocyclohexyl]amino}-4-(trifluoromethyl)benzoate | N[C@@H]1[C@H](CCCC1)NC1=C(C(=O)OC)C=CC(=C1)C(F)(F)F | C15H19F3N2O2
